US07557103B2
B. 8-(1-Ethyl-propyl)-3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine
To a dry 10 ml round bottom flask with reflux condenser containing 8-(1-ethyl-propyl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine (150 mg, 0.690 mmol), 2-bromo-5-fluoro-3-methyl-benzo[b]thiophene (186.1 mg, 0.759 mmol), and Cs2CO3 (472 mg, 1.45 mmol) in NMP (1.1 ml). The mixture is degassed with bubbling N2 for 15 min. Then add Pd2(dba)3 (32 mg, 0.0345 mmol) and PPh3 (36.2 mg, 0.138 mmol). Heat the reaction mixture at 130° C. and stir overnight. Dilute with H2O; extract with EtOAc (3×20 ml); dried (Na2SO4), filter and purify by HPLC to give title compound (29.5 mg, 0.068 mmol, 10%). 1H NMR (CDCl3): 0.931 (t, J=7.6 Hz, 6H), 1.912 (m, 4H), 2.286 (s, 3H), 2.552 (s, 3H), 3.386 (m, 1H), 6.877 (s, 1H), 7.224 (td, J=2.4, 9.0 Hz, 1H), 7.50 (dd, J=2.9, 9.8 Hz, 1H), 7.842 (dd, J=4.9, 9.0 Hz, 1H) ppm. ES-MS (m/z): calcd for C22H21F4N3S (M+H)+: 435.39. found: 436.2.

reactant | 8-(1-ethyl-propyl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine | 0.690 mmol, 150 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C=C(N2)C(F)(F)F | C13H16F3N3
reactant | 2-bromo-5-fluoro-3-methyl-benzo[b]thiophene | 0.759 mmol, 186.1 mg | BrC1=C(C2=C(S1)C=CC(=C2)F)C | C9H6BrFS
reactant | Cs2CO3 | 1.45 mmol, 472 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | PPh3 | 0.138 mmol, 36.2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | NMP | 1.1 ml | CN1CCCC1=O | C5H9NO
solvent | H2O | O | H2O
catalyst | Pd2(dba)3 | 0.0345 mmol, 32 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-(1-Ethyl-propyl)-3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine | 0.068 mmol, 29.5 mg, 10% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C(F)(F)F)C2=C(C1=C(S2)C=CC(=C1)F)C | C22H21F4N3S
